US04464358
2-Amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid hydrobromide (580 mg., 2.0 mM) was suspended in dry ethanol (15 ml.). Concentrated sulphuric acid (0.05 ml.) was added and the mixture was stirred under reflux. After 24 hr. reflux, more sulphuric acid (0.05 ml.) was added and the reflux was continued for 48 hr. The mixture was evaporated in vacuo. Ether (15 ml.) and ethyl acetate (20 ml.) were added to the residue, followed by water (10 ml.). The mixture was basified with dilute sodium bicarbonate solution, and then separated. The organic phase was washed successively with water (15 ml.) and saturated brine (15 ml.). The solution was dried (Na2SO4) and evaporated in vacuo, giving ethyl 2-amino-6-hydroxy-1,2,3,4-tetrahydronapthalene-2-carboxylate, Rf 0.54 [kieselgel 60, 5:1 v/v dichloromethane/methanol].

reactant | 2-Amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid hydrobromide | 2.0 mM, 580 mg | Br.NC1(CC2=CC=C(C=C2CC1)O)C(=O)O
reactant | sulphuric acid | 0.05 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulphuric acid | 0.05 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | ethyl 2-amino-6-hydroxy-1,2,3,4-tetrahydronapthalene-2-carboxylate | NC1(CC2=CC=C(C=C2CC1)O)C(=O)OCC | C13H17NO3
